US04792628
1.77 Grams of 1-amino-4,6-dimethyl-7-hydroxyindane was dissolved in 100 ml of 0.2N-sodium hdyroxide aqueous solution, then 1.7 g of α-chloroacetyl chloride was added thereto under an ice-cooling condition. Then the reaction mixture was stirred at a room temperature for 2 hours. The reaction mixture was acidified by adding a diluted hydrochloric acid, then extracted with chloroform. The chloroform layer was washed with water, dried, then the solvent was removed by evaporation. Recrystallized from ethanol to obtain 2.34 g of 1-acetylamino-4,6-dimethyl-7-hydroxyindane in the form of colorless needle-like crystals. Melting point: 131°-132° C.

reactant | 1-amino-4,6-dimethyl-7-hydroxyindane | NC1CCC2=C(C=C(C(=C12)O)C)C | C11H15NO
reactant | α-chloroacetyl chloride | 1.7 g | ClCC(=O)Cl | C2H2Cl2O
reactant | hydrochloric acid | Cl | ClH
solvent | sodium | [Na] | Na
product | 1-acetylamino-4,6-dimethyl-7-hydroxyindane | 2.34 g | C(C)(=O)NC1CCC2=C(C=C(C(=C12)O)C)C | C13H17NO2
